US06451814B1
8-(Benzyloxy)-5-[(2S)oxiranylmethoxy]-3,4-dihydro-2(1H)-quinolinone
5,8-Dihydroxy-3,4-dihydro-2(1H)-quinolinone (2.0 g, 11.16 mmol) and potassium carbonate (1.8 g, 13.02 mmol) were stirred at reflux in acetone (35 mL). Benzyl bromide (1.33 mL, 11.2 mmol) was added and refluxing continued for 4 hours. The solvents were removed and the reaction mixture partitioned between chloroform and water. The organic phase was washed with brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent evaporated to dryness in vacuo. The residue was purified by flash chromatography on silica gel Merck-60 (eluant: 1:1 hexane-ethyl acetate) to yield the title compound (0.80 g, 2.97 mmol).

reactant | 5,8-Dihydroxy-3,4-dihydro-2(1H)-quinolinone | 11.16 mmol, 2.0 g | OC1=C2CCC(NC2=C(C=C1)O)=O | C9H9NO3
reactant | potassium carbonate | 13.02 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 11.2 mmol, 1.33 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | acetone | 35 mL | CC(=O)C | C3H6O
product | 8-(Benzyloxy)-5-[(2S)oxiranylmethoxy]-3,4-dihydro-2(1H)-quinolinone | 2.97 mmol, 0.80 g | C(C1=CC=CC=C1)OC=1C=CC(=C2CCC(NC12)=O)OC[C@H]1OC1 | C19H19NO4
